US08536214B2
d) Benzyl 5-(hydroxymethyl)-2,3-dihydro-1H-inden-1-ylcarbamate
To a solution of methyl 1-(benzyloxycarbonylamino)-2,3-dihydro-1H-indene-5-carboxylate (5.59 mmol, 1.82 g) in THF (30 mL) at 0° C. was added lithium aluminium hydride (5.59 mmol, 5.59 mL) in a dropwise fashion. Stirring at 0° C. was continued for 1.5 h after which time the reaction mixture was quenched with water and sat Rochelle's salt added followed by DCM & the organics separated/dried (1PS paper) before being concentrated to dryness. The residue was purified by flash chromatography (50 g, 1:1 EtOAc/heptane) to give an off-white solid (800 mg, 2.69 mmol, 48.1%). MS (ESI): m/z [M+H]+ 298.2

reactant | methyl 1-(benzyloxycarbonylamino)-2,3-dihydro-1H-indene-5-carboxylate | 5.59 mmol, 1.82 g | C(C1=CC=CC=C1)OC(=O)NC1CCC2=CC(=CC=C12)C(=O)OC | C19H19NO4
reactant | lithium aluminium hydride | 5.59 mmol, 5.59 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | Benzyl 5-(hydroxymethyl)-2,3-dihydro-1H-inden-1-ylcarbamate | 2.69 mmol, 800 mg, 48.1% | OCC=1C=C2CCC(C2=CC1)NC(OCC1=CC=CC=C1)=O | C18H19NO3
